US07820654B2
Chlorination of 2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-ol (1.5 g, 4.1 mmol) with POCl3 (10 mL) as explained above, afforded (3-chloro-4-methoxy-phenyl)-(4-chloro-6-phenyl-pyrimidin-2-yl)-amine.

reactant | 2-(3-chloro-4-methoxy-phenylamino)-6-phenyl-pyrimidin-4-ol | 4.1 mmol, 1.5 g | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)O)C1=CC=CC=C1 | C17H14ClN3O2
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | (3-chloro-4-methoxy-phenyl)-(4-chloro-6-phenyl-pyrimidin-2-yl)-amine | ClC=1C=C(C=CC1OC)NC1=NC(=CC(=N1)Cl)C1=CC=CC=C1 | C17H13Cl2N3O
